US07981883B2
N-(4-tert-butylphenyl)-3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxamide
N,N′-diisopropylcarbodiimide (96 mg, 0.76 mmol) was added to a solution of 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid (150 mg, 0.76 mmol) in DCM (40 ml). The reaction mixture was mixed after 30 minutes with 1-hydroxybenzotriazole hydrate (HOBt, 101 mg, 0.76 mmol) and tert-butylaniline (113 mg, 0.76 mmol), stirred overnight and the solvent removed under vacuum. The residue was taken up in EtOAc. The organic phase was washed successively with diluted aq. citric acid solution and sat. aq. NaCl solution, dried over magnesium sulphate and the solvent removed under vacuum. The desired product N-(4-tert-butylphenyl)-3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxamide was obtained after purification by column chromatography (SiO2, hexane/EtOAc 1:1) as a diastereomer mixture in a yield of 66 mg.

reactant | N,N′-diisopropylcarbodiimide | 0.76 mmol, 96 mg | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid | 0.76 mmol, 150 mg | CC1=NOC2(C1)CCC(CC2)C(=O)O | C10H15NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.76 mmol, 101 mg | O.ON1N=NC2=C1C=CC=C2
reactant | tert-butylaniline | 0.76 mmol, 113 mg | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(4-tert-butylphenyl)-3-methyl-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1CCC2(CC(=NO2)C)CC1 | C20H28N2O2
